US07718676B2
To a solution of 3-bromoacetylpyridine hydrobromide (5 g, 17.8 mmol) in 20 mL of water was added sodium azide (1.16 g, 17.8 mmol) and the contents stirred at room temperature for 2 h. The reaction mixture was treated with saturated aqueous NaHCO3 until neutrality, extracted with ethyl acetate (3×30 mL) and the combined organic phases were dried over MgSO4. After solvent removal the crude residue was silica gel column chromatographed (dichloromethane/ethanol/98/2). 3-Azidoacetyl-pyridine was obtained as yellow solid (2.17 g, 71%).

reactant | 3-bromoacetylpyridine hydrobromide | 17.8 mmol, 5 g | Br.BrCC(=O)C=1C=NC=CC1
reactant | sodium azide | 17.8 mmol, 1.16 g | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 20 mL | O | H2O
product | 3-Azidoacetyl-pyridine | N(=[N+]=[N-])CC(=O)C=1C=NC=CC1 | C7H6N4O
